US08314112B2
Step B: 3-(3,5-Dibromo-pyridin-4-yl)-propan-1-ol
To a solution of 3-(3,5-dibromo-pyridin-4-yl)-acrylic acid ethyl ester (1 eq, 17.0 mmol, 5.7 g) in EtOH (100 ml) at −18° C. is added NaBH4 (2 eq, 34.0 mmol, 1.29 g). The cooling bath is removed and the mixture is stirred at r.t. for 1.5 h. Then additional NaBH4 (0.78 eq, 13.2 mmol, 0.5 g) is added and the mixture is heated at 50° C. for 6 h. After cooling to r.t., glacial acetic acid is added, then the mixture is concentrated under reduced pressure. The residue is taken up in EtOAc, and washed with aqueous HCl (1M), sat. aqueous NaHCO3 solution, and sat. aqueous NaCl solution. The organic layer is dried with MgSO4, filtered, and concentrated in vacuo. The crude product is purified using column chromatography (hexane/EtOAc) to give the title compound; [M+H]+=295.

reactant | 3-(3,5-dibromo-pyridin-4-yl)-acrylic acid ethyl ester | 17.0 mmol, 5.7 g, 1 eq | C(C)OC(C=CC1=C(C=NC=C1Br)Br)=O | C10H9Br2NO2
reactant | NaBH4 | 34.0 mmol, 1.29 g, 2 eq | [BH4-].[Na+]
reactant | NaBH4 | 13.2 mmol, 0.5 g, 0.78 eq | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | EtOH | 100 ml | CCO | C2H6O
product | 3-(3,5-Dibromo-pyridin-4-yl)-propan-1-ol | BrC=1C=NC=C(C1CCCO)Br | C8H9Br2NO
